US07700625B2
To a suspension of 60% sodium hydride (3.0 g, 0.125 mmol) in mineral oil in 80 ml of anhydrous DMF (100 ml) was dropwise added a solution of para-toluene sulphonamide (5.6 g, 32.60 mmol) in 30 ml of DMF over 1 hour with vigorous stirring at room temperature. After the addition, the mixture was stirred for 1 hour at room temperature and another 1 hour heating at 90° C. To this mixture was added dropwise a solution of 1,2-bis-bromomethyl-4-chloro-benzene (4 g, 14.18 mmol) in 20 ml of anhydrous DMF at 60° C. and then stirred overnight at room temperature. The resultant mixture was poured onto ice and the resulting precipitate was collected by filtration. The precipitate was washed with 1N hydrochloric acid, 5% sodium carbonate and brine then dried (MgSO4), filtered and evaporated to give 2.8 g of 5-Chloro-2-(toluene-4-sulphonyl)-2,3-dihydro-1H-isoindole as a pale yellow solid. MS: [M+H]+ 308.

reactant | sodium hydride | 0.125 mmol, 3.0 g | [H-].[Na+]
reactant | para-toluene sulphonamide | 32.60 mmol, 5.6 g | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | 1,2-bis-bromomethyl-4-chloro-benzene | 14.18 mmol, 4 g | BrCC1=C(C=C(C=C1)Cl)CBr | C8H7Br2Cl
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-2-(toluene-4-sulphonyl)-2,3-dihydro-1H-isoindole | 2.8 g | ClC=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C15H14ClNO2S
